US03976661
[5,5-Dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-(dodecylsulfonyl)acetonitrile ##SPC8##
N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate (3.2 g.), dodecylsulfonylacetonitrile (2.7 g.) and triethylamine (3.1 ml.) are dissolved in ethanol (15 ml.) and heated at reflux for 5 minutes. After chilling, the solid is collected on a filter, washed with methanol and dried. Obtaining pure dye by recrystallization from methanol proved difficult. The product is eluted from basic alumina, using a 10% methanol-90% chloroform solvent mixture, and then recrystallized from methanol. The yield of purified dye is 0.5 g. (11%), m.p. 114°-115°C. This dye compound shows good ultraviolet absorption characteristics as indicated in the data in Table 1 below.

reactant | N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate | 3.2 g | Cl(=O)(=O)(=O)[O-].ClC1=CC(CC(C1)(C)C)=[N+]1CCCC1
reactant | dodecylsulfonylacetonitrile | 2.7 g | C(CCCCCCCCCCC)S(=O)(=O)CC#N | C14H27NO2S
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | [5,5-Dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]-(dodecylsulfonyl)acetonitrile | CC1(CC(C=C(C1)N1CCCC1)=C(C#N)S(=O)(=O)CCCCCCCCCCCC)C | C26H44N2O2S
